US04277479
Into 50 ml of dimethylformamide, 1.8 g of 6-[3-(1-cyclohexyltetrazol-5-yl)propoxy]carbostyril is dissolved, then 0.15 g of NaH is added under stirring for 30 minutes by ice-cooling the outside of the reaction vessel. Into the reaction mixture, 0.52 ml of allyl bromide is added dropwise and stirred at a room temperature for 2 hours. The reaction mixture is then concentrated and the residue is extracted with chloroform, washed with water and dried with Na2SO4. After removal of the drying agent by filtration, the mother liquor is concentrated and the residue is dissolved in chloroform. The chloroform solution is washed with water and then concentrated. The residue thus obtained is purified by a silica gel column chromatography [eluent: chloroform-methanol (50:1)]. The eluted solution is concentrated and the residue is recrystallized from chloroform-petroleum ether to obtain 1.2 g of 1-allyl-6-[3-(1-cyclohexyltetrazol-5-yl)propoxy]carbostyril in the form ofcolorless needle-like crystals. Melting point: 102°-103.5° C.

reactant | 6-[3-(1-cyclohexyltetrazol-5-yl)propoxy]carbostyril | 1.8 g | C1(CCCCC1)N1N=NN=C1CCCOC=1C=C2C=CC(NC2=CC1)=O | C19H23N5O2
reactant | NaH | 0.15 g | [H-].[Na+]
reactant | allyl bromide | 0.52 ml | C(C=C)Br | C3H5Br
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-allyl-6-[3-(1-cyclohexyltetrazol-5-yl)propoxy]carbostyril | 1.2 g | C(C=C)N1C(=O)C=CC2=CC(=CC=C12)OCCCC1=NN=NN1C1CCCCC1 | C22H27N5O2
